US08426358B2
Synthesis of 3-(5-mercapto-1,3,4-thiadiazol-2-ylthio)pyrazine-2-carbonitrile
The title compound was prepared according to the procedure described in Example 1 by using 1,3,4-thiadiazole-2,5-dithiol (945 mg, 6.05 mmol), NaH (60% dispersion in mineral oil, 264 mg, 6.60 mmol), and 3-chloropyrazine-2-carbonitrile (840 mg, 6.00 mmol) in DMF and benzene (10 ml, 1/1) by stirring at 50° C. under nitrogen atmosphere for 4 hr.

reactant | 1,3,4-thiadiazole-2,5-dithiol | 6.05 mmol, 945 mg | S1C(=NN=C1S)S | C2H2N2S3
reactant | NaH | 6.60 mmol, 264 mg | [H-].[Na+]
reactant | 3-chloropyrazine-2-carbonitrile | 6.00 mmol, 840 mg | ClC=1C(=NC=CN1)C#N | C5H2ClN3
solvent | DMF | CN(C)C=O | C3H7NO
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 3-(5-mercapto-1,3,4-thiadiazol-2-ylthio)pyrazine-2-carbonitrile | SC1=NN=C(S1)SC=1C(=NC=CN1)C#N | C7H3N5S3
